US04847403
2-(2-Methylphenyl)-2-isopropyl-5-oxovaleronitrile
To a solution of 5,5-diethoxy-2-isopropyl-2-(2-methylphenyl)-valeronitrile (267 g) in acetone (2000 ml) is added under stirring a solution of oxalic acid dihydrate (121.7 g) in water (730 ml) and the mixture is warmed under continuous stirring for 4 hours at 40° C. Thereafter it is cooled and under external cooling to 520 C. adjusted by the addition of a 50% aqueous potassium carbonate solution to pH within the range of 6 to 6.5. The formed potassium oxalate precipitate is filtered off and washed with acetone (500 ml). From the filtrate the solvent is evaporated under reduced pressure (bath temperature above 30° C.). The residue is mixed with water (600 ml) and ether (500 ml), the separated aqueous phase is extracted with ether (2×300 ml), the combined organic solutions are washed with aqueous sodium hydrogencarbonate, water and staturated brine until neutral reaction, dried over anhydrous magnesium sulfate and the solvent is evaporated (bath temperature about 30° C.) under reduced pressure, finally at about 1.3 kPa, to yield 203 g of the oily crude product (claimed compound content of 93.2% as determined by gas-liquid chromatography). The obtained material is used without separate purification for the subsequent reductive alkylation.

reactant | 5,5-diethoxy-2-isopropyl-2-(2-methylphenyl)-valeronitrile | 267 g | C(C)OC(CCC(C#N)(C1=C(C=CC=C1)C)C(C)C)OCC | C19H29NO2
reactant | oxalic acid dihydrate | 121.7 g | O.O.C(C(=O)O)(=O)O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2000 ml | CC(=O)C | C3H6O
solvent | water | 730 ml | O | H2O
product | 2-(2-Methylphenyl)-2-isopropyl-5-oxovaleronitrile | 203 g, 93.2% | CC1=C(C=CC=C1)C(C#N)(CCC=O)C(C)C | C15H19NO
